US04256739
A solution of 410 mg (2.03 mmols) of m-chloroperbenzoic acid in 10 ml of methylene chloride is added to a solution of 1.10 g (1.85 mmols) of a mixture of isomers consisting of 7β-phenylacetylamino-3-phenylthio-3-cephem-4-carboxylic acid diphenylmethyl ester and 7β-phenylacetylamino-3-phenylthio-2-cephem-4α-carboxylic acid diphenylmethyl ester in 11 ml of methylene chloride at 0° C. and the mixture is stirred in an ice bath for 30 minutes. The reaction mixture is diluted with ethyl acetate and washed successively with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution and the organic phase is dried over sodium sulphate and evaporated in vacuo. The residue is chromatographed on silica gel thick layer plates with toluene/ethyl acetate, 1:1. 7β-Phenylacetylamino-3-phenylthio-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide of Rf value ~0.38 (silica gel; toluene/ethyl acetate, 1:1) is obtained and after recrystallisation from methylene chloride/diethyl ether melts at 180° C. with decomposition.

reactant | m-chloroperbenzoic acid | 2.03 mmols, 410 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 7β-phenylacetylamino-3-phenylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)C2=CC=CC=C2 | C34H28N2O3S2
reactant | 7β-phenylacetylamino-3-phenylthio-2-cephem-4α-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)[C@H]1C(=CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)C2=CC=CC=C2 | C34H28N2O3S2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 11 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7β-Phenylacetylamino-3-phenylthio-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS([C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O)C2=CC=CC=C2 | C34H28N2O4S2
